US07250511B2
tert-Butyl 4-[N-(5-acetamido-6-bromoindan-1-yl)amino]-2-fluorobenzoate
To a solution of 5-acetamido-6-bromoindan-1-one (0.370 g, 1.38 mmol) in anhydrous methanol (32 ml) was added tert-butyl 4-amino-2-fluorobenzoate (V. Bavetsias et al, J. Med. Chem. 1996, 39, 73-85; 0.322 g, 1.52 mmol) followed by decaborane (0.030 g). The reaction mixture was stirred at room temperature for 11 hours then more decaborane (0.005 g) was added and stirring was continued for a longer 12 hours under argon. The solvent was removed in vacuo, and the residue was purified by column chromatography eluting with a gradient of ethyl acetate in hexane (30 to 40%). The desired compound was obtained as a white solid: 0.455 g (71%) m.p.>70° C. (softens); 1H-NMR (250 MHz, CDCl3, TMS) 1.57 (s, 9H, C(CH3)3), 2.24 (s, 3H, COCH3), 1.98, 2.56 (2×m, 2H, indanyl 2-H), 2.94 (m, 2H, indanyl 3-H), 4.33(d, J=7.90 Hz, 1H, N—H), 4.99 (q, J=7.06 Hz, 1H, indanyl 1-H), 6.37 (m, 2H, 3,5-H), 7.48, 8.25, 7.60 (3×s, each 1H, indanyl 4-H, 7-H, CONH), 7.72 (t, J=8.75 Hz, 6-H); MS (ESI, mz) 485, 487 {(M+Na)+, bromine isotopic pattern}.

reactant | 5-acetamido-6-bromoindan-1-one | 1.38 mmol, 0.370 g | C(C)(=O)NC=1C=C2CCC(C2=CC1Br)=O | C11H10BrNO2
reactant | tert-butyl 4-amino-2-fluorobenzoate | 1.52 mmol, 0.322 g | NC1=CC(=C(C(=O)OC(C)(C)C)C=C1)F | C11H14FNO2
reactant | decaborane | 0.030 g | [B][B][B][B][B][B][B][B][B][B] | B10
reactant | decaborane | 0.005 g | [B][B][B][B][B][B][B][B][B][B] | B10
solvent | methanol | 32 ml | CO | CH4O
product | tert-Butyl 4-[N-(5-acetamido-6-bromoindan-1-yl)amino]-2-fluorobenzoate | C(C)(=O)NC=1C=C2CCC(C2=CC1Br)NC1=CC(=C(C(=O)OC(C)(C)C)C=C1)F | C22H24BrFN2O3
